US05196427
2-[2-Phenyl-2-(3-indolyl)ethyl]-3-(3-methoxyphenyl)-4-(3H)quinazolinone [Route C modified]
2-Amino-N-(3-methoxyphenyl)benzamide (2.77 g, 11.5 mmol), 3-[α-(2,2-dimethyl-4,6-dioxo-1,3-dioxane-5-yl)benzyl]indole (4.00 g, 11.5 mmol), and PPTS (1.44 g, 5.7 mmol) in 20 ml of pyridine was refluxed for seven days. The reaction mixture was concentrated in vacuo to an oil and partitioned between ethyl acetate and water. The ethyl acetate layer was separated, washed (1N hydrochloric acid, saturated sodium bicarbonate, and brine), dried over anhydrous sodium sulfate, and concentrated in vacuo to dryness. The reaction was incomplete. The product was therefore mixed with PPTS (3 g) and 10 ml of 2,4,6-collidine and refluxed for five hours. The product was worked up as above to provide an oil which, upon standing for about one month, began to crystallize. Trituration with ethyl acetate and filtration provided 1.4 g of the title product: mp 160°-164° C.

reactant | 2-Amino-N-(3-methoxyphenyl)benzamide | 11.5 mmol, 2.77 g | NC1=C(C(=O)NC2=CC(=CC=C2)OC)C=CC=C1 | C14H14N2O2
reactant | 3-[α-(2,2-dimethyl-4,6-dioxo-1,3-dioxane-5-yl)benzyl]indole | 11.5 mmol, 4.00 g | CC1(OC(C(C(O1)=O)C(C1=CC=CC=C1)C1=CNC2=CC=CC=C12)=O)C | C21H19NO4
reactant | PPTS | 5.7 mmol, 1.44 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-[2-Phenyl-2-(3-indolyl)ethyl]-3-(3-methoxyphenyl)-4-(3H)quinazolinone | 1.4 g | C1(=CC=CC=C1)C(CC1=NC2=CC=CC=C2C(N1C1=CC(=CC=C1)OC)=O)C1=CNC2=CC=CC=C12 | C31H25N3O2
